US05707994
Synthesis of (2S)-3-(3-(4-amidinobenzoylamino)propanoylamino)-2-benzenesulfonylaminopropanoic acid ethyl ester
(2S)-2-Benzenesulfonylamino-3-(3-(4-(N-t-butoxycarbonylamidino)benzoylamino)propanoylamino)propanoic acid ethyl ester (1.48 g) obtained in the same manner as in the synthesis of the compound of Example 1-(8) is dissolved in TFA (50 ml) under ice-cooling, and the mixture is stirred at room temperature for one hour. The reaction mixture is concentrated under reduced pressure, and the residue is washed with ether, and purified by HPLC to give the title compound (448 mg) as a colorless powder.

reactant | (2S)-2-Benzenesulfonylamino-3-(3-(4-(N-t-butoxycarbonylamidino)benzoylamino)propanoylamino)propanoic acid ethyl ester | 1.48 g | C(C)OC([C@H](CNC(CCNC(C1=CC=C(C=C1)C(NC(=O)OC(C)(C)C)=N)=O)=O)NS(=O)(=O)C1=CC=CC=C1)=O | C27H35N5O8S
solvent | TFA | 50 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2S)-3-(3-(4-amidinobenzoylamino)propanoylamino)-2-benzenesulfonylaminopropanoic acid ethyl ester | 448 mg | C(C)OC([C@H](CNC(CCNC(C1=CC=C(C=C1)C(N)=N)=O)=O)NS(=O)(=O)C1=CC=CC=C1)=O | C22H27N5O6S
